US04319913
Under a static nitrogen atmosphere at 26° C., a solution of n-butyllithium (3.93 g, 7.13 mol) in hexane was added to a solution of tetramethylethylenediamine (1.8 g, 0.0155 mol) in 30 ml. of anhydrous cyclohexane with constant stirring. The reaction mixture was cooled to 0° C. and then a solution of N-benzylaniline (5.5 g, 0.03 mol) in 30 ml. of anhydrous cyclohexane was added to the mixture to produce a suspension containing a dilithio compound. This suspension was stirred for 2.5 hours at 26° C. and then cooled to 0° C. A solution of t-butylphosphonic dichloride (5.6 g, 0.032 mol) in 30 ml. of anhydrous cyclohexane was added dropwise to the suspension and the resulting mixture was stirred for 1.5 hours at 26° C. The reaction mixture was cooled to 0° C. and then quenched with the rapid addition of 10 ml. of a saturated solution of ammonium chloride. The resulting mixture was concentrated in vacuo and the residue was partitioned in methylene chloride and water. The layers were separated and the methylene chloride layer was washed with 5% hydrochloric acid, then with water, dried over sodium sulfate and concentrated in vacuo to yield a red oil. The red oil was separated on a silica gel column using ethyl acetate as the eluant. Fractions containing the benzazaphosphole were combined and concentrated in vacuo to produce a crude product. The crude product was triturated with isopropyl ether and petroleum ether to yield a white solid. The white solid was recrystallized from isopropyl ether to yield 1-(t-butyl)-2-pheny-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (0.7 g, 8% yield) as colorless needles having a melting point of 171°-172° C. and the following analysis:

reactant | n-butyllithium | 7.13 mol, 3.93 g | C(CCC)[Li]
reactant | tetramethylethylenediamine | 0.0155 mol, 1.8 g | CN(CCN(C)C)C | C6H16N2
reactant | N-benzylaniline | 0.03 mol, 5.5 g | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | t-butylphosphonic dichloride | 0.032 mol, 5.6 g | C(C)(C)(C)P(=O)(Cl)Cl | C4H9Cl2OP
solvent | hexane | CCCCCC | C6H14
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-(t-butyl)-2-pheny-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 0.7 g, 8% yield | C(C)(C)(C)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C17H20NOP
